* C:\Users\lugfe\Documents\GitHub\TC-TP6\vco\vco.asc
XU1 N006 N003 vcc -vcc N004 TL082
XU2 N008 N004 vcc -vcc N007 TL082
XU3 N004 tri vcc -vcc tri TL082
R1 N003 Vin 10k
R2 N006 Vin 10k
R3 N006 0 10k
R4 N003 C 5k
R5 N008 0 3.6k
R6 N007 N008 4.8k
R7 B N007 10k
C1 N004 N003 1.25n
R8 vcc Vref 10k
R9 Vref 0 10k
V3 Vin 0 5
V2 vcc 0 15
Q1 C B 0 0 BC547C
V1 0 -vcc 15
R10 N005 tri 30k
R11 0 N005 2k
Q2 N001 N005 N009 0 BC547C
Q3 N002 0 N010 0 BC547C
R12 N001 vcc 4.7k tol=1 pwr=0.1
R13 N002 vcc 4.7k
R14 N010 N009 390
XU4 N002 N001 vcc -vcc vo TL082
R20 N002 0 250
R16 0 0 220
R15 N011 -vcc 7k
R18 N011 N009 250
R19 N010 N011 250
R17 vo N001 250
V4 Vpatron 0 SINE(0 500m 7.85k 0 0 160)
R21 0 Vpatron 4678
.model NPN NPN
.model PNP PNP
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc C:\Users\lugfe\Documents\LTspiceXVII\lib\sub\TL082.301
.tran 0 1m 0
.backanno
.end
