* C:\Users\lugfe\Documents\GitHub\TC-TP6\vco\vco.asc
XU1 N007 N003 vcc -vcc N004 TL082
XU2 N009 N004 vcc -vcc N008 TL082
XU3 N004 tri vcc -vcc tri TL082
R1 N003 Vin 10k
R2 N007 Vin 10k
R3 N007 0 10k
R4 N003 C 5k
R5 N009 0 1.2k
R6 N008 N009 3.6k
R7 B N008 10k
C1 N004 N003 1.5n
R8 vcc Vref 10k
R9 Vref 0 10k
V3 Vin 0 4.6
V2 vcc 0 15
Q1 C B 0 0 BC547B
V1 0 -vcc 15
R10 N005 tri 22k
R11 0 N005 2.2k
Q2 N001 N005 N010 0 BC547B
Q3 N002 N006 N011 0 BC547B
R12 N001 vcc 4.7k tol=1 pwr=0.1
R13 N002 vcc 4.7k
R14 N011 N010 390
XU4 N002 N001 vcc -vcc vo TL082
R20 N002 0 300
R16 N006 0 220
R15 N012 -vcc 8.4k
R17 vo N001 300
V4 Vpatron 0 SINE(0 500m 10k 0 0 345)
R21 0 Vpatron 4678
R18 N012 N010 250
R19 N012 N011 250
.model NPN NPN
.model PNP PNP
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc C:\Users\lugfe\Documents\LTspiceXVII\lib\sub\TL082.301
.tran 0 1m 0
* SINE(0 500m 10k 0 0 160)
* preset
* preset
* preset
.backanno
.end
