* C:\Users\lugfe\Documents\GitHub\TC-TP6\vco\vco.asc
R1 N007 Vin 10k
R2 N010 Vin 10k
R3 N010 0 10k
R4 N007 C 5k
R5 N012 0 1.8k
R6 N011 N012 6.8k
R7 B N011 10k
C1 tri N007 3.07n
V2 vcc 0 15
Q1 C B 0 0 BC547B
V1 0 -vcc 15
R10 N008 tri 22k
R11 0 N008 2.9k
Q2 N005 N008 N013 0 BC547B
Q3 N006 N009 N014 0 BC547B
R12 N005 vcc 4.7k tol=1 pwr=0.1
R13 N006 vcc 4.7k
R14 N014 N013 390
XU4 N006 N005 vcc -vcc vo TL082
R20 N006 0 300
R16 N009 0 220
R15 N015 -vcc 8.5k
R17 vo N005 300
V4 Vpatron1k 0 SINE(0 500m 1k 0 0 0)
R21 0 Vpatron1k 4678
R18 N015 N013 250
R19 N015 N014 250
V5 N003 0 4.9
V3 Vpatron10k 0 SINE(0 500m 10k 0 0 0)
R8 0 Vpatron10k 4678
XU1 N012 tri vcc -vcc N011 TL082
XU2 N010 N007 vcc -vcc tri TL082
XU3 N003 N001 vcc -vcc Vin TL082
R1d N001 -vcc 30k
R2c N002 N001 500
R2base Vin N002 500
R3c N004 0 2000
R3base N001 N004 140
.model NPN NPN
.model PNP PNP
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc C:\Users\lugfe\Documents\LTspiceXVII\lib\sub\TL082.301
* SINE(0 500m 10k 0 0 160)
* preset
* preset
* preset
* .lib C:\\Users\\lugfe\\Documents\\LTspiceXVII\\lib\\sub\\opamp.sub
* preset500
* preset500
.tran 0 2m 0
* PULSE(0 5 0 .1 0s 0s 1s 100)
.backanno
.end
